US05376451
Preparation of 2-dodecylthio-N-(salicylidene)aniline
Into a 1-liter flask equipped with condenser, stirrer and thermometer, were placed 220 g (0.75 mol of 2-(dodecylthio)aniline, 200 g of ethanol, and 91.5 g (0.75 mol) of salicylaldehyde. The resultant solution was heated at reflux overnight. Upon cooling, solvent was removed at reduced pressure to afford 290 g (97%) of product as a dark yellow/brown oil.

reactant | 2-(dodecylthio)aniline | 0.75 mol | C(CCCCCCCCCCC)SC1=C(N)C=CC=C1 | C18H31NS
reactant | salicylaldehyde | 0.75 mol, 91.5 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | ethanol | 200 g | C(C)O | C2H6O
product | 2-dodecylthio-N-(salicylidene)aniline | 290 g, 97% | C(CCCCCCCCCCC)SC1=C(N=CC=2C(O)=CC=CC2)C=CC=C1 | C25H35NOS
